US04156609
2-Chloro-4-(4-fluorosulfonylphenylazo)phenol
Sulfanilyl fluoride (17.5 g, 0.1 mole) was dissolved in 75 ml warn saturated methanolic HCl, and the resulting solution was cooled in a methanol-ice bath. Sodium nitrite (7.0 g, 0.1 mole), dissolved in 25 ml water was then added dropwise, and the solution stirred 5 minutes more. The diazonium salt solution was then added dropwise to a cold (cooled in an ice bath) solution of o-chlorophenol (12.8 g, 0.099 mole) dissolved in 150 ml pyridine. The reaction mixture was stirred an additional 15 minutes and then poured over ice and hydrochloric acid. The resulting precipitate was filtered off, washed with water, and air dried. The yield was 20.0 g (64%), m.p. 133°-134° C.

reactant | Sulfanilyl fluoride | 0.1 mole, 17.5 g | S(=O)(C1=CC=C(C=C1)N)(=O)F | C6H6FNO2S
reactant | HCl | Cl | ClH
reactant | Sodium nitrite | 0.1 mole, 7.0 g | N(=O)[O-].[Na+]
reactant | o-chlorophenol | 0.099 mole, 12.8 g | ClC1=C(C=CC=C1)O | C6H5ClO
solvent | water | 25 ml | O | H2O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-4-(4-fluorosulfonylphenylazo)phenol | ClC1=C(C=CC(=C1)N=NC1=CC=C(C=C1)S(=O)(=O)F)O | C12H8ClFN2O3S
